US06465472B1
N-Ethyl-N-[3,4-(methylenedioxy)phenyl]urea
To a solution of N-ethyl-3,4-(methylenedioxy)aniline (8.1 g) AcOH (100 mL) was added NaOCN (3.0 g) at 10° C. he cold bath was removed and the mixture was stirred at rt for 24 h. The solvent was removed in vacuo and the resulting residue was neutralized with 2 N NaOH. The mixture was extracted with chloroform (3×50 mL). The combined organic phase was washed with water and brine, dried over Na2SO4. The solvent was removed in vacuo and the resulting residue was recrystallized from chloroform/hexane to yield the title compound (5.7 g, 56%). 1H NMR ((CDCl3): 6.78-6.72 (m, 3H), 6.02 (s, 2H), 4.38 (br s, 2H), 3.66 (q, J=7.0, 2H), 1.11 (t, J=7.0 3H).

reactant | NaOCN | 3.0 g | O([Na])C#N
reactant | N-ethyl-3,4-(methylenedioxy)aniline | 100 mL, 8.1 g | C(C)NC1=CC2=C(C=C1)OCO2 | C9H11NO2
product | N-Ethyl-N-[3,4-(methylenedioxy)phenyl]urea | 5.7 g, 56% | C(C)N(C(=O)N)C1=CC2=C(C=C1)OCO2 | C10H12N2O3
